US07732460B2
(g) 3,7-Difluoro-8-(1-methylethenyl)-2-(methyloxy)-1,5-naphthyridine
A solution of 8-bromo-3,7-difluoro-2-(methyloxy)-1,5-naphthyridine (1.14 g, 4.15 mmol) and tetrakis(triphenylphosphine)palladium(0) (240 mg, 0.21 mmol) in degassed dimethoxyethane (40 ml) was stirred under argon for 30 minutes. Potassium carbonate (570 mg, 4.2 mmol), water (12 ml) and pyridine-tris(1-methylethenyl)boroxin (1:1) (470 mg, 1.66 mmol) were added the mixture was heated to reflux for 5 hours. The cooled mixture was treated with water (100 ml) and ether (200 ml). The phases were separated and the aqueous phase further extracted with ether (2×200 ml). The combined organic extracts were dried over magnesium sulphate and evaporated. The residue was chromatographed on silica eluting with a gradient of 0-50% ethyl acetate in hexane affording a white solid (820 mg, 84%).

reactant | 8-bromo-3,7-difluoro-2-(methyloxy)-1,5-naphthyridine | 4.15 mmol, 1.14 g | BrC=1C(=CN=C2C=C(C(=NC12)OC)F)F | C9H5BrF2N2O
reactant | Potassium carbonate | 4.2 mmol, 570 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 12 ml | O | H2O
reactant | pyridine tris(1-methylethenyl)boroxin | 1.66 mmol, 470 mg | N1=CC=CC=C1.CC(=C)B1OB(OB(O1)C(=C)C)C(=C)C
reactant | water | 100 ml | O | H2O
solvent | dimethoxyethane | 40 ml | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.21 mmol, 240 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ether | 200 ml | CCOCC | C4H10O
product | 3,7-Difluoro-8-(1-methylethenyl)-2-(methyloxy)-1,5-naphthyridine | FC=1C(=NC2=C(C(=CN=C2C1)F)C(=C)C)OC | C12H10F2N2O
